US09376436B2
To a solution of 2-(4-bromo-6-methyl-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one (which may be prepared as described in Description 13) (180 mg, 0.5600 mmol) in 1,2-dimethoxyethane (3 mL) and water (1 mL) was added 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)benzonitrile (182.56 mg, 0.6100 mmol) and sodium carbonate (177.65 mg, 1.68 mmol). The reaction mixture was degassed with nitrogen and then treated with bis(triphenylphosphine)palladium (II) dichloride (19.61 mg, 0.0300 mmol). The reaction was heated in the microwave at 120° C. for 15 minutes. The reaction mixture was diluted with dichloromethane and water. After separation of the layers, the aqueous phase was re-extracted with dichloromethane and the combined organic phases passed through a hydrophobic frit. The solvent was evaporated and the residue purified by silica gel chromatography to afford 2-[2-methyl-6-(7-methyl-6-oxo-1,7-diazaspiro[4.4]non-1-en-2-yl)-4-pyridyl]-4-(trifluoromethyl)-benzonitrile (D14) as a colourless solid (74 mg);

reactant | 2-(4-bromo-6-methyl-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one | 0.5600 mmol, 180 mg | BrC1=CC(=NC(=C1)C)C1=NC2(CC1)C(N(CC2)C)=O | C14H16BrN3O
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)benzonitrile | 0.6100 mmol, 182.56 mg | CC1(OB(OC1(C)C)C1=C(C#N)C=CC(=C1)C(F)(F)F)C | C14H15BF3NO2
reactant | sodium carbonate | 1.68 mmol, 177.65 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium | 0.0300 mmol, 19.61 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 2-[2-methyl-6-(7-methyl-6-oxo-1,7-diazaspiro[4.4]non-1-en-2-yl)-4-pyridyl]-4-(trifluoromethyl)-benzonitrile | 74 mg | CC1=NC(=CC(=C1)C1=C(C#N)C=CC(=C1)C(F)(F)F)C1=NC2(CC1)C(N(CC2)C)=O | C22H19F3N4O
